US09238639B2
(4-Methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate (132.1 mg), MeOH (2.0 mL) and THF (dry) (2.0 mL) was added 1N NaOH (0.663 mL). The mixture was stirred at room temperature for 2 h. The mixture was concentrated. The mixture was neutralized with 1N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was crystallized from EtOAc-hexane to give the title compound (117 mg).

reactant | methyl(4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 132.1 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)C)=O | C18H17F3N2O3S
reactant | MeOH | 2.0 mL | CO | CH4O
reactant | NaOH | 1N, 0.663 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (4-Methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 117 mg | CC1=CC(=CC2=C1C(=CS2)CC(=O)O)OCC2=CC(=NN2C)C(F)(F)F | C17H15F3N2O3S
